US06677368B2
A solution of 3-ethoxycarbonylmethyl-5-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (7 g, 29.26 mmol), LiOH (7 g, 10 eq.) in methanol (90 mL) and water (30 mL) was heated in a 70° C. oil bath for 3 hours. The cooled reaction was adjusted to pH 3 with 3N HCl, the resulted precipitate was collected by filtration, washed with water and dried to give 4.67 g (87%) of 3-carboxymethyl-5-methyl-1H-pyrrole-2-carboxylic acid.

reactant | 3-ethoxycarbonylmethyl-5-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 29.26 mmol, 7 g | C(C)OC(=O)C=1NC(=CC1CC(=O)OCC)C | C12H17NO4
reactant | LiOH | 7 g, 10 eq. | [Li+].[OH-]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 90 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 3-carboxymethyl-5-methyl-1H-pyrrole-2-carboxylic acid | 4.67 g, 87% | C(=O)(O)CC1=C(NC(=C1)C)C(=O)O | C8H9NO4
